US07157487B2
(Step 3) Synthesis of 3-hydroxy-4-nitrophenylacetic acid
A mixture of diethyl 3-benzyloxy-4-nitrophenylmalonate (22.0 g, 57.8 mmol), acetic acid (200 ml) and concentrated hydrochloric acid (100 ml) was heated under reflux for 15 hours under stirring. After the reaction mixture was cooled to room temperature, the solvent was distilled off from the reaction mixture under reduced pressure. The solid thus obtained was collected by filtration under reduced pressure, followed by drying under reduced pressure, whereby the title compound (5.45 g, 48%) was obtained as a pale yellow amorphous substance.

reactant | diethyl 3-benzyloxy-4-nitrophenylmalonate | 57.8 mmol, 22.0 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)C(=O)OCC | C20H21NO7
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 3-hydroxy-4-nitrophenylacetic acid | OC=1C=C(C=CC1[N+](=O)[O-])CC(=O)O | C8H7NO5
